US07399778B2
D. N-{1-[1-(Benzyloxy)-1H-pyrazol-5-yl]-2-ethylbutyl}-5-chlorothiophene-2-sulfonamide
In a flask containing a mixture of triethylamine (0.045 mL, 0.325 mmol) and {1-[1-(benzyloxy)-1H-pyrazol-5-yl]-2-ethylbutyl}amine (0.081 g, 0.296 mmol) in CH2Cl2 (1 mL) at ambient temperature was added 5-chlorothiophene-2-sulfonyl chloride (0.064 g, 0.296 mmol). After 16 h the mixture was diluted with CH2Cl2 (10 mL) and poured into saturated aqueous NaHCO3 (10 mL). The organic phase was separated and washed sequentially with 1N HCl solution, distilled water, brine and then dried over MgSO4, filtered, and concentrated to an oil. Purification by flash chromatography (hexane/EtOAc, 4:1) afforded the product as a solid (0.084 g, 62%). Mass Spectrum (+ESI): 454 (M+H)+.

reactant | triethylamine | 0.325 mmol, 0.045 mL | C(C)N(CC)CC | C6H15N
reactant | {1-[1-(benzyloxy)-1H-pyrazol-5-yl]-2-ethylbutyl}amine | 0.296 mmol, 0.081 g | C(C1=CC=CC=C1)ON1N=CC=C1C(C(CC)CC)N | C16H23N3O
reactant | 5-chlorothiophene-2-sulfonyl chloride | 0.296 mmol, 0.064 g | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-{1-[1-(Benzyloxy)-1H-pyrazol-5-yl]-2-ethylbutyl}-5-chlorothiophene-2-sulfonamide | 0.084 g, 62% | C(C1=CC=CC=C1)ON1N=CC=C1C(C(CC)CC)NS(=O)(=O)C=1SC(=CC1)Cl | C20H24ClN3O3S2
